US07589232B2
Step c) Formation of N-{4-[(4-tert-butylphenyl)ethynyl]benzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide
The titled compound was prepared following the procedure N using N-(4-bromobenzyl)-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide and 4-(tert-butyl)-phenylacetylene as a beige powder (65%). M1(ESI): 564.2. HPLC, Rt: 6.39 min (Purity: 98.9%).

reactant | N-(4-bromobenzyl)-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide | BrC1=CC=C(CN(C(CCC2CCCC2)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C25H28BrNO4
reactant | 4-(tert-butyl)-phenylacetylene | C(C)(C)(C)C1=CC=C(C=C1)C#C | C12H14
product | N-{4-[(4-tert-butylphenyl)ethynyl]benzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide | C(C)(C)(C)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC2CCCC2)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C37H41NO4
